US08633183B2
A-52) 5-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-pyridine-2-carboxylic acid
The title compound is synthesized in analogy to general procedure GP4 starting from 1.2 g (4.63 mmol) 4-chloro-6-ethyl-5-(6-amino-pyridin-3-ylethynyl)-pyrimidine using 1.0 g (5.6 mmol) 4-methoxycarbonyl-3-pyridyl boronic acid, 163 mg (0.23 mmol) bis-(triphenylphoshine)palladium(II) chloride, 7.0 mL (13.9 mmol) of an aqueous 2 M Cs2CO3 and 2 mL MeOH in 10 mL DME. The reaction mixture is stirred over night at 80° C. The reaction mixture is poured on water and washed with DCM. Aqueous 1 M HCl is added to the aqueous phase until pH 5 is reached. The precipitated product is filtered off and washed with water and methanol. After drying 290 mg (13%) of the desired product are obtained a solid material which is used for the next step without further purification.

reactant | 4-chloro-6-ethyl-5-(6-amino-pyridin-3-ylethynyl)-pyrimidine | 4.63 mmol, 1.2 g | ClC1=NC=NC(=C1C#CC=1C=NC(=CC1)N)CC | C13H11ClN4
reactant | Cs2CO3 | 2 M | C(=O)([O-])[O-].[Cs+].[Cs+]
reactant | MeOH | 2 mL | CO | CH4O
solvent | DME | 10 mL | COCCOC | C4H10O2
catalyst | bis-(triphenylphoshine)palladium(II) chloride | 0.23 mmol, 163 mg | Cl[Pd]([P](C1=CC=CC=C1)(C2=CC=CC=C2)C3=CC=CC=C3)([P](C4=CC=CC=C4)(C5=CC=CC=C5)C6=CC=CC=C6)Cl
product | 5-[5-(6-Amino-pyridin-3-ylethynyl)-6-ethyl-pyrimidin-4-yl]-pyridine-2-carboxylic acid | NC1=CC=C(C=N1)C#CC=1C(=NC=NC1CC)C=1C=CC(=NC1)C(=O)O | C19H15N5O2
